US08981085B2
5-Chloro-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (1.20 g, 5.57 mmol) was placed in 6M HCl (30 mL). SnCl2 (5.28 g, 27.8 mmol) was then added, and the reaction was stirred for 30 minutes at room temperature. The reaction was then poured into a mixture of 1M NaOH and ice. The resulting suspension was then raised to a pH of 8 and then extracted with 3:1 DCM:i-PrOH. The combined organic fractions were dried, filtered, and concentrated to give the crude product, which was triturated with 10:1 hexanes:DCM to give the product 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (0.8 g, 77% yield).

reactant | 5-Chloro-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 5.57 mmol, 1.20 g | ClC=1C(=C2C(=NC1)NC=C2[N+](=O)[O-])F | C7H3ClFN3O2
reactant | SnCl2 | 27.8 mmol, 5.28 g | Cl[Sn]Cl
reactant | NaOH | 1M | [OH-].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl | 6M, 30 mL | Cl | ClH
product | 5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 0.8 g, 77% yield | ClC=1C(=C2C(=NC1)NC=C2N)F | C7H5ClFN3
